US07018988B2
(2S,4EZ)-N2-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-N1-(3-methoxyphenyl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 1-isocyanato-3-methoxybenzene, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 100% purity by LC/MS. MS(ESI+): m/z=500.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 1-isocyanato-3-methoxybenzene | N(=C=O)C1=CC(=CC=C1)OC | C8H7NO2
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-N2-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-N1-(3-methoxyphenyl)-1,2-pyrrolidinedicarboxamide | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(=O)[C@H]1N(CC(C1)=NOC)C(=O)NC1=CC(=CC=C1)OC | C28H29N5O4
